US05061720
To a cold (ice bath) stirred solution of 50.0 g (0.25 mole) of 1-bromo-3-phenylpropane (Aldrich) and 31.9 g (0.25 mole) of oxalyl chloride in 300 mL of trichloroethylene was added, portionwise, 33.3 g (0.25 mole) of aluminum chloride. The reaction mixture was stirred for 0.5 hr and then poured into ice water. The layers were separated and the aqueous layer was extracted with three 100 mL portions of methylene chloride. The combined organic layers were washed twice with 200 mL portions of water and dried (magnesium sulfate). The solvents were evaporated under reduced pressure to leave 63.6 g (97%) of 4-(3-bromopropyl)benzoyl chloride as an oil. To a solution of the acid chloride in 120 mL of dry benzene was added 60 mL of absolute ethanol and the mixture was heated at reflux for 3 hr. The solvents were evaporated under reduced pressure to give 63.4 g (93.5%) of an oil. The oil was purified by chromatography (3.5×90 cm glass column, 200 g of silica gel, benzene-hexane, 1:1). Fractions containing the desired component were combined and the solvents evaporated under reduced pressure to give 60.6 g (89%) of the title compound as a pale yellow oil.

reactant | 1-bromo-3-phenylpropane | 0.25 mole, 50.0 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | oxalyl chloride | 0.25 mole, 31.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 0.25 mole, 33.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | trichloroethylene | 300 mL | ClC=C(Cl)Cl | C2HCl3
product | 4-(3-bromopropyl)benzoyl chloride | 63.6 g, 97% | BrCCCC1=CC=C(C(=O)Cl)C=C1 | C10H10BrClO
